US09388199B2
C. (1R,3S,5R)-2-[2-(3-Acetyl-pyrazolo[3,4-c]pyridin-1-yl)-acetyl]-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid benzyl ester
To a solution of (1R,3S,5R)-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid benzyl ester hydrochloride (2.98 g, 9.06 mmol), (3-acetyl-pyrazolo[3,4-c]pyridin-1-yl)-acetic acid (prepared as described in Part A, 3.2 g, 9.06 mmol) and HBTU (5.15 g, 13.59 mmol) in DMF (30.2 mL) was added DIPEA (4.75 mL, 27.2 mmol). The reaction mixture was stirred for 16 h at RT under a nitrogen atmosphere. DMF was evaporated. The residue was diluted in EtOAc and washed with aq. HCl 1N then with NaHCO3 (5% in water). The organic layer was dried (Phase separator) and concentrated. The residual oil was purified by flash column chromatography on silica gel (c-hexane/EtOAc 10:0 to 0:10) to give the title compound. TLC, Rf (EtOAc)=0.33; MS (UPLC-MS): 419 [M+H]+; tR (HPLC conditions d): 2.97 min.

reactant | (1R,3S,5R)-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid benzyl ester hydrochloride | 9.06 mmol, 2.98 g | Cl.C(C1=CC=CC=C1)OC(=O)[C@H]1N[C@@H]2C[C@@H]2C1
reactant | (3-acetyl-pyrazolo[3,4-c]pyridin-1-yl)-acetic acid | 9.06 mmol, 3.2 g | C(C)(=O)C1=NN(C2=CN=CC=C21)CC(=O)O | C10H9N3O3
reactant | HBTU | 13.59 mmol, 5.15 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 27.2 mmol, 4.75 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 30.2 mL | CN(C)C=O | C3H7NO
product | (1R,3S,5R)-2-[2-(3-Acetyl-pyrazolo[3,4-c]pyridin-1-yl)-acetyl]-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)[C@H]1N([C@@H]2C[C@@H]2C1)C(CN1N=C(C=2C1=CN=CC2)C(C)=O)=O | C23H22N4O4
